US06900216B2
A solution of 3-bromo-4-methylbenzo[b]thiophene (1.69 g) in tetrahydrofuran (10 ml) was added dropwise under nitrogen at −70° C. over 10 minutes to a stirred solution of n-butyllithium (2.5M solution in hexanes; 3.87 ml) in ether (30 ml), then the mixture was stirred at −70° C. for 30 minutes. A solution of N-methoxy-N-methylpropionamide (1.31 g) in tetrahydrofuran (10 ml) was added dropwise at −70° C. over 10 minutes, the mixture was stirred at −70° C. for 3 hours, then it was allowed to warm to ambient temperature and quenched by the addition of saturated aqueous ammonium chloride solution (30 ml). The organic layer was separated, washed with saturated aqueous sodium chloride solution (30 ml), and dried (MgSO4). The solvents were removed in vacuao to give 1-(4-methylbenzo[b]thiophen-2-yl)propan-1-one (0.53 g) as an orange solid which was used without further purification.

reactant | 3-bromo-4-methylbenzo[b]thiophene | 1.69 g | BrC=1C2=C(SC1)C=CC=C2C | C9H7BrS
reactant | n-butyllithium | 2.5M, 3.87 ml | C(CCC)[Li]
reactant | N-methoxy-N-methylpropionamide | 1.31 g | CON(C(CC)=O)C | C5H11NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-methylbenzo[b]thiophen-2-yl)propan-1-one | 0.53 g | CC1=CC=CC=2SC(=CC21)C(CC)=O | C12H12OS
